US07285563B2
N-[(+/−)-1-phenylethyl]-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and (+/−)-1-phenylethyl isocyanate. m/z (ES+) 292 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | (+/−)-1-phenylethyl isocyanate | C1(=CC=CC=C1)C(C)N=C=O | C9H9NO
product | N-[(+/−)-1-phenylethyl]-N′-[quinolin-6-yl]urea | C1(=CC=CC=C1)C(C)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C18H17N3O
